US05763599
A solution of potassium tertiary-butylate (90 mg, 0.8 mmol) in tert-butanol (1 ml, synthesis quality, 99%) was added to 2-bromo-6-nitrotoluene (1.08 g, 5 mmol) and paraformaldehyde (150 mg, 5 mmol in DMSO (2.5 ml, synthesis quality, additionally dried for 2 d over molecular sieve 4 Å). After the addition of the potassium tertiary-butylate solution, a color change from yellow to deep violet occurred. It was stirred for 5 min at room temperature and for 30 min at 70° C. (oil bath temperature). The mixture was then allowed to cool to room temperature and neutralized with a few drops of conc. HCl. The mixture was diluted with EtOAc (30 ml) and washed with H2O (20 ml). The aqueous phase was post-extracted with EtOAc (2×20 ml). Drying of the organic phases over Na2 SO4, filtering and evaporating the solvent under reduced pressure yielded the crude product (1.49 g) which was purified by column chromatography (20 g SiO2, 20×2 cm, solvent: PE 45 ml, PE/EtAOc 10:1 110 ml, 8:1 180 ml, 7.5:1 340 ml, 6:1 140 ml). 2-(2-bromo-6-nitrophenyl)ethanol (867 mg, 70%) was obtained as a yellow solid.

reactant | 2-bromo-6-nitrotoluene | 5 mmol, 1.08 g | BrC1=C(C(=CC=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | paraformaldehyde | C=O | CH2O
solvent | tert-butanol | 1 ml | C(C)(C)(C)O | C4H10O
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-(2-bromo-6-nitrophenyl)ethanol | 867 mg, 70% | BrC1=C(C(=CC=C1)[N+](=O)[O-])CCO | C8H8BrNO3
